US04797399
To a solution of 5-chloro-3-[(4-amino-1-piperazinyl)carbonylmethyl]-2-benzothiazolinone (1.64 g) in acetonitrile (50 ml) were added 37% formaldehyde solution (4 ml) and sodium cyanoborohydride (1 g) and the mixture was stirred for 25 minutes at room temperature and further for 1 hour neutralizing with acetic acid and concentrated. To a residue was added saturated sodium carbonate solution and extracted with chloroform. After drying over anhydrous magnesium sulfate, the solution was concentrated under reduced pressure. The residue was subjected to a column chromatography on silica gel (42 g) and eluted with a mixture of chloroform-methanol (20:1). The fractions containing the object compound were combined and concentrated under reduced pressure. The residue was washed with ether and then acetic acid to give 5-chloro-3-[(4-dimethylamino-1-piperazinyl)carbonylmethyl]-2-benzothiazolinone (0.32 g), which was dissolved with heating in a mixture of chloroform (10 ml) and ethanol (5 ml). After cooling, to the mixture was added ethanol solution containing hydrogen chloride (about 23 %). The residue obtained by concentration under reduced pressure was recrystallized from a mixture of ethanol (10 ml) and water (0.5 ml) to give colorless crystals of 5-chloro-3-[(4-dimethylamino-1-piperazinyl)carbonylmethyl]-2-benzothiazlinone hydrochloride (0.31 g).

reactant | 5-chloro-3-[(4-amino-1-piperazinyl)carbonylmethyl]-2-benzothiazolinone | 1.64 g | ClC=1C=CC2=C(N(C(S2)=O)CC(=O)N2CCN(CC2)N)C1 | C13H15ClN4O2S
reactant | formaldehyde | 4 ml | C=O | CH2O
reactant | sodium cyanoborohydride | 1 g | C(#N)[BH3-].[Na+]
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
product | 5-chloro-3-[(4-dimethylamino-1-piperazinyl)carbonylmethyl]-2-benzothiazolinone | 0.32 g | ClC=1C=CC2=C(N(C(S2)=O)CC(=O)N2CCN(CC2)N(C)C)C1 | C15H19ClN4O2S
